US05587504
Synthesis of 2-(4'-hydroxymethylphenyl)benzoic Acid
2.0 g (7.11 mmol) of 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline was dissolved in ethanol (30 ml). 2N hydrochloric acid (10 ml) was added thereto, followed by heating under reflux for 3 hours. After the reaction liquid was cooled and concentrated, a saturated aqueous solution of sodium hydrogencarbonate (100 ml) was added thereto, followed by the extraction with chloroform. After the organic phase was washed with water and dried, it was subjected to vacuum concentration. A 20% aqueous solution of sodium hydroxide (20 ml) and ethanol (20 ml) were added to the residue, followed by heating under reflux for 8 hours. After the reaction liquid was cooled to room temperature and adjusted to pH 6 with hydrochloric acid, it was extracted with chloroform. After the organic phase was washed with water and dried, it was subjected to vacuum concentration. The residue was purified by silica gel column chromatography (a chloroform/methanol system) to give 1.31 g of the title compound (yield 81%).

reactant | 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline | 7.11 mmol, 2.0 g | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)CO)C | C18H19NO2
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(4'-hydroxymethylphenyl)benzoic Acid | 1.31 g, yield 81% | OCC1=CC=C(C=C1)C1=C(C(=O)O)C=CC=C1 | C14H12O3
